* File: lab11.pex.netlist.pex
* Created: Sat Apr 20 12:11:09 2024
* Program "Calibre xRC"
* Version "v2023.4_17.10"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_lab11_Gnd 3 5 22 29 46 53 70 90 91 95 99 104 106
c116 99 0 0.00123999f
c117 95 0 0.00123999f
c118 91 0 0.00123999f
c119 70 0 0.0248122f
c120 53 0 1.93118e-19
c121 46 0 0.0248122f
c122 29 0 1.93118e-19
c123 22 0 0.0248122f
c124 5 0 1.93118e-19
r125 105 108 0.160909
r126 105 106 4.12843
r127 104 108 0.160909
r128 103 104 4.12843
r129 100 102 0.57
r130 99 106 0.212317
r131 99 102 2.57043
r132 96 98 0.57
r133 95 108 0.0418175
r134 95 98 2.57043
r135 92 94 0.57
r136 91 94 2.57043
r137 90 103 0.106158
r138 90 91 0.106158
r139 70 72 0.000554745
r140 69 70 0.581927
r141 67 69 0.000554745
r142 66 70 0.0995564
r143 65 102 0.103491
r144 65 66 0.848667
r145 64 67 0.0995564
r146 63 100 0.103491
r147 63 64 0.848667
r148 61 69 1
r149 55 72 1
r150 53 55 0.124667
r151 46 48 0.000554745
r152 45 46 0.581927
r153 43 45 0.000554745
r154 42 46 0.0995564
r155 41 98 0.103491
r156 41 42 0.848667
r157 40 43 0.0995564
r158 39 96 0.103491
r159 39 40 0.848667
r160 37 45 1
r161 31 48 1
r162 29 31 0.124667
r163 22 24 0.000554745
r164 21 22 0.581927
r165 19 21 0.000554745
r166 18 22 0.0995564
r167 17 94 0.103491
r168 17 18 0.848667
r169 16 19 0.0995564
r170 15 92 0.103491
r171 15 16 0.848667
r172 13 21 1
r173 7 24 1
r174 5 7 0.124667
r175 3 61 0.000454545
r176 3 37 0.000454545
r177 3 13 0.000454545
.ends

.subckt PM_lab11_Vdd 4 11 18 24 29 35 42 49 55 60 66 73 80 86 91 100 105 106 107
+ 108 110 111 112 113 114 115 117 119 121 122 123 124
c79 114 0 0.00168612f
c80 113 0 0.00168612f
c81 112 0 0.00168612f
c82 91 0 0.0485706f
c83 86 0 0.00147733f
c84 80 0 1.43764e-19
c85 60 0 0.0485706f
c86 55 0 0.00147733f
c87 49 0 1.43764e-19
c88 29 0 0.0485706f
c89 24 0 0.00147733f
c90 18 0 1.43764e-19
r91 119 124 0.109853
r92 119 120 0.450571
r93 117 123 0.109853
r94 117 118 0.450571
r95 115 122 0.109853
r96 115 116 0.450571
r97 114 124 0.0925806
r98 113 123 0.0925806
r99 112 122 0.0925806
r100 110 124 0.109853
r101 110 111 3.16757
r102 109 121 0.0418175
r103 108 123 0.109853
r104 108 109 3.16757
r105 106 122 0.109853
r106 106 107 3.16757
r107 105 111 0.212317
r108 104 121 0.160909
r109 104 105 4.12843
r110 102 121 0.160909
r111 101 107 0.212317
r112 100 102 3.19471
r113 100 101 0.933714
r114 91 93 0.000270078
r115 89 91 0.283312
r116 87 89 0.00162047
r117 86 120 0.103491
r118 85 91 0.234926
r119 85 86 1.254
r120 84 114 1.254
r121 84 87 0.234926
r122 82 93 0.5
r123 80 82 0.0623333
r124 77 89 1
r125 73 89 1
r126 66 77 0.215909
r127 66 73 0.215909
r128 60 62 0.000270078
r129 58 60 0.283312
r130 56 58 0.00162047
r131 55 118 0.103491
r132 54 60 0.234926
r133 54 55 1.254
r134 53 113 1.254
r135 53 56 0.234926
r136 51 62 0.5
r137 49 51 0.0623333
r138 46 58 1
r139 42 58 1
r140 35 46 0.215909
r141 35 42 0.215909
r142 29 31 0.000270078
r143 27 29 0.283312
r144 25 27 0.00162047
r145 24 116 0.103491
r146 23 29 0.234926
r147 23 24 1.254
r148 22 112 1.254
r149 22 25 0.234926
r150 20 31 0.5
r151 18 20 0.0623333
r152 15 27 1
r153 11 27 1
r154 4 15 0.215909
r155 4 11 0.215909
.ends

.subckt PM_lab11_In3 1 2 5 6 16 17 21
c29 21 0 1.43518e-19
c30 16 0 1.60673e-19
c31 1 0 1.15249e-19
r32 17 21 0.1064
r33 14 21 1.1
r34 10 16 0.105861
r35 7 16 0.105861
r36 6 14 0.199754
r37 5 16 0.0275115
r38 5 6 2.69
r39 2 10 1.55
r40 1 7 1.06
.ends

.subckt PM_lab11_In1 1 2 5 16 17 18
c29 18 0 1.14112e-19
c30 17 0 1.60673e-19
c31 1 0 1.15249e-19
r32 18 22 0.105556
r33 14 22 1.1
r34 14 16 0.199754
r35 10 17 0.105861
r36 7 17 0.105861
r37 5 17 0.0275115
r38 5 16 2.62
r39 2 10 1.55
r40 1 7 1.06
.ends

.subckt PM_lab11_In2 1 2 5 6 16 17
c29 17 0 1.50454e-19
c30 16 0 1.60673e-19
c31 1 0 1.15249e-19
r32 17 21 0.105556
r33 14 21 1.1
r34 10 16 0.105861
r35 7 16 0.105861
r36 6 14 0.199754
r37 5 16 0.0275115
r38 5 6 2.575
r39 2 10 1.55
r40 1 7 1.06
.ends

.subckt PM_lab11_Out3 1 3 6 8 10 20 22 23 24 27 28 34
c37 22 0 1.43518e-19
c38 10 0 1.21516e-19
c39 8 0 2.19551e-19
c40 3 0 2.96745e-19
r41 32 34 0.177913
r42 27 28 0.139682
r43 26 27 5.31429
r44 24 26 0.139682
r45 24 34 7.03214
r46 23 28 3.08214
r47 20 32 2
r48 20 22 0.225284
r49 20 21 0.225284
r50 11 22 0.878222
r51 10 21 0.586044
r52 8 11 0.5
r53 6 8 0.0625
r54 3 10 1
r55 1 3 0.125
.ends

.subckt PM_lab11_Out2 1 3 6 8 10 20 22 23 30
c33 22 0 1.50454e-19
c34 10 0 1.21516e-19
c35 8 0 2.19551e-19
c36 3 0 2.96745e-19
r37 28 30 0.177913
r38 23 30 9.15714
r39 20 28 2
r40 20 22 0.225284
r41 20 21 0.225284
r42 11 22 0.878222
r43 10 21 0.586044
r44 8 11 0.5
r45 6 8 0.0625
r46 3 10 1
r47 1 3 0.125
.ends

.subckt PM_lab11_Out1 1 3 6 8 10 20 22 23 24 27 29 36
c32 22 0 1.14112e-19
c33 10 0 1.21516e-19
c34 8 0 2.19551e-19
c35 3 0 2.96745e-19
r36 34 36 0.177913
r37 26 29 0.139682
r38 26 27 5.26786
r39 24 27 0.139682
r40 24 36 7.00714
r41 23 29 1.43214
r42 20 34 2
r43 20 22 0.225284
r44 20 21 0.225284
r45 11 22 0.878222
r46 10 21 0.586044
r47 8 11 0.5
r48 6 8 0.0625
r49 3 10 1
r50 1 3 0.125
.ends

