* File: nand_2.pex.netlist.pex
* Created: Mon Apr  8 12:34:10 2024
* Program "Calibre xRC"
* Version "v2023.4_17.10"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_nand_2_Vdd 3 7 11 17 19 23 51 58 61 65 67 73 79 81
c29 77 0 0.00670909f
c30 73 0 0.00179505f
c31 68 0 0.00938829f
c32 67 0 0.00699774f
c33 61 0 0.0124058f
c34 60 0 0.00280432f
c35 58 0 0.00179505f
c36 24 0 0.0167182f
c37 23 0 0.0275008f
c38 19 0 1.70715e-19
c39 17 0 8.15236e-25
c40 12 0 0.01649f
c41 11 0 0.0339669f
c42 7 0 1.43764e-19
r43 74 81 0.109853
r44 73 81 0.0925806
r45 72 73 1.254
r46 67 69 0.19
r47 67 68 0.677391
r48 66 79 0.109853
r49 65 81 0.109853
r50 65 66 0.841429
r51 62 64 0.654444
r52 61 64 0.650222
r53 60 77 0.51236
r54 58 79 0.0925806
r55 57 58 1.254
r56 54 77 0.19
r57 51 74 0.618857
r58 24 61 0.0430578
r59 24 68 0.159435
r60 24 72 0.159435
r61 23 69 0.612222
r62 21 23 0.5
r63 19 21 0.0623333
r64 17 24 1
r65 12 62 0.0411929
r66 12 60 0.161657
r67 12 57 0.161657
r68 11 54 0.802222
r69 9 11 0.5
r70 7 9 0.0623333
r71 5 12 1
r72 3 64 1
r73 3 17 0.454091
r74 3 5 0.454091
.ends

.subckt PM_nand_2_Gnd 9 13 24 26 33 37 42
c33 48 0 0.0170288f
c34 42 0 0.0185155f
c35 37 0 0.0162482f
c36 33 0 0.0447869f
c37 30 0 0.00179557f
c38 24 0 8.15236e-25
c39 13 0 1.43764e-19
r40 43 49 0.113105
r41 42 51 0.104569
r42 41 49 0.0887472
r43 41 42 0.804946
r44 38 48 0.0436736
r45 38 40 0.641778
r46 37 51 0.107822
r47 37 40 0.646
r48 36 46 0.113105
r49 35 49 0.113105
r50 35 36 0.827857
r51 31 48 0.158707
r52 31 33 0.697511
r53 30 48 0.158707
r54 29 46 0.0887472
r55 29 30 0.804946
r56 26 43 0.632429
r57 24 51 1
r58 19 48 1
r59 15 33 0.5
r60 13 15 0.0625
r61 9 40 1
r62 9 24 0.454545
r63 9 19 0.454545
.ends

.subckt PM_nand_2_N_1 1 2 4
c15 2 0 3.03551e-19
r16 2 4 0.0625
r17 1 4 0.0625
.ends

.subckt PM_nand_2_Out 2 4 7 9 13 14 17 19 20 23 28
c37 28 0 2.75126e-20
c38 20 0 1.60243e-20
c39 19 0 3.83224e-20
c40 14 0 5.27258e-20
c41 13 0 7.78699e-19
c42 9 0 2.41896e-19
r43 25 28 0.170353
r44 21 28 0.0341169
r45 21 23 1.99627
r46 19 28 0.170353
r47 19 20 0.497619
r48 15 20 0.212645
r49 15 17 1.01333
r50 14 25 0.407143
r51 13 17 0.5
r52 9 23 0.5
r53 7 9 0.0625
r54 4 13 0.0625
r55 2 13 0.0625
.ends

.subckt PM_nand_2_A 1 3 4
c13 3 0 8.15236e-25
r14 3 4 1.84
r15 1 4 2.145
.ends

.subckt PM_nand_2_B 1 3 4
c15 3 0 8.15236e-25
r16 3 4 1.835
r17 1 4 2.15
.ends

